Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
vertigo, diplopia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ h/o HLD and recurrent TIA/stroke (vertigo) for several
years presenting with sudden onset of vertigo, vertical
oscillopsia, and vertical diplopia.

Patient's neurologic history began about ___ years ago with an
unprovoked attack of vertigo which lasted for about an hour. He
was hospitalized in ___ (he's a ___ surgeon) and
was started on aspirin. The work-up including MRI, CT, TTE was
normal as far as he recalls. He was not sure if there
is a PFO. He is compliant w ASA. He didn't get extended cardiac
monitoring for a-fib. He was diagnosed with HLD though he was 
not
treated. This has recurred every few months since, lasting
anywhere from a few minutes to 30 minutes each time. The patient
came to the ___ last ___ from ___  to visit his son 
in ___. Today pt
stood up from table at approximately 3:30pm and developed
sudden-onset vertigo and vertical oscillopsia. Symptoms have 
been
persistent since. He went to his son's house and took 162mg
aspirin. At that point he noticed that he had binocular vertical
diplopia which has also persisted since. He subsequently came to
the ED.

On arrival SBPs 130s, ___ 160. Down-beat nystagmus in down-gaze.
Otherwise exam was normal; NIHSS 0. CTA head/neck with
hypoplastic R vert; no obvious pathology. CT head without bleed
or hypodensity. On full neurologic exam he had gaze-evoked
vertical nystagmus (up beat on up gaze, down beat on down gaze),
a left hyper, and a subtle left INO. Otherwise the exam was
normal and his symptoms continued to improve in the ED. He
received an extra 162mg ASA and atorva 40. 

ROS: No receptive/productive speech difficulties. No dysphonia,
dysphagia, facial numbness, dysarthria, facial droop, weakness,
numbness, frank ataxia, inability to walk, incontinence. No
recent illnesses, chest pain, dyspnea, nausea, vomiting,
diarrhea, abdominal pain. 
 
Past Medical History:
- G6PD deficiency
- Recurrent ?TIA/stroke per HPI
- GERD
- ___
- Sickle trait
- Essential tremor
- Bilateral inguinal hernias
 
Social History:
___
Family History:
Father had a heart attack followed by a stroke at ___, otherwise 
no neurologic illnesses in the family. No known DVT/PE or 
recurrent miscarriages. No autoimmune conditions.
 
Physical Exam:
EXAM ON ADMISSION
=================
Vitals: 97 70 135/88 16 100% RA 
Gen: NAD NT ND
HEENT: No ptosis
Neck: No bruit
Card: RRR no m/r/g
Pulm: CTAB 
Abd: Soft NT ND
Extrem: Thin
Neurologic
 - Mental status: Clear and cogent history. A&Ox3. Names in ___
culturally appropriate manner (e.g. trouble w cactus, hammock).
Repeats, comprehends normally. Good fluency and prosody. Days of
the week in reverse done quickly and accurately. Cookie thief
normal. No dysarthria.
 - Cranial nerves: 3->2 ___ without APD. VFFTC. Slight left 
hyper.
Only abnormality in versions in a slight adduction deficit OS
(when covered, the outer image resolves). Up-gaze is full but
there is up-beat nystagmus in up-gaze and down-beat nystagmus in
down-gaze. Fixation preference with the right eye, when covered
the left eye comes down and in slightly. Reproduced reliably 
with
alternate cover. Convergence is normal. Deferred VOR. Pursuit is
relatively smooth. Face symmetric to pin and direction of
movement. Corneals intact. Face symmetric with full eye closure.
Audition is equal. Palate elevation is symmetric. Gag is
symmetric. Shrug/head turn full. Tongue midline with normal fast
movements. 
 - Motor: Normal bulk and tone without weakness, drift, ___,
or Babinski.
 - Sensory: Intact to touch without extinguishing to double, pin
prick, proprioception in all extremities. Some sway but does not
fall with Romberg. Graphesthesia in the hands in normal. 
 - Reflexes: Brisk throughout with pecs and crossed adductors. 
 - Cerebellar: No dysmetria in any limb, no truncal ataxia. 
 - Gait: Slightly unsteady but can tandem relatively well. 

EXAM ON DISCHARGE
=================
EXAM ON ADMISSION
=================
Vitals: ###
Gen: NAD NT ND
HEENT: No ptosis
Pulm: No increased work of breathing
Extrem: Thin
Neurologic
 - Mental status: Clear and cooperative. A&Ox3. Comprehends 
normally. Good fluency and prosody. No dysarthria.
 - Cranial nerves: 3->2 bilaterally without APD. VFFTC. No skew. 
No nystagmus in either upgaze or downgaze. No fixation 
preference. No INO. Convergence is normal. Pursuit is relatively 
smooth. Face symmetric with full eye closure.
Audition is equal. Palate elevation is symmetric. Shrug/head 
turn full. Tongue midline with normal fast movements. 
 - Motor: Normal bulk and tone without weakness or drift.

 
Pertinent Results:
LABS ON ADMISSION
=================
___ 05:25PM BLOOD WBC-4.4 RBC-4.72 Hgb-12.0* Hct-38.7* 
MCV-82 MCH-25.4* MCHC-31.0* RDW-13.8 RDWSD-40.5 Plt ___
___ 05:25PM BLOOD ___ PTT-33.5 ___
___ 05:25PM BLOOD Plt ___
___ 05:25PM BLOOD UreaN-15
___ 05:25PM BLOOD Creat-0.9
___ 05:25PM BLOOD cTropnT-<0.01
___ 05:25PM BLOOD Calcium-9.4 Phos-2.4* Mg-1.9
___ 05:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:29PM BLOOD Glucose-162* Na-139 K-3.7 Cl-101 
calHCO3-25

OTHER PERTINENT LABS
====================
___ 04:50AM BLOOD WBC-4.8 RBC-4.71 Hgb-12.0* Hct-39.0* 
MCV-83 MCH-25.5* MCHC-30.8* RDW-14.1 RDWSD-42.0 Plt ___
___ 04:50AM BLOOD ___ PTT-33.5 ___
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD Glucose-91 UreaN-10 Creat-0.7 Na-143 
K-4.0 Cl-108 HCO3-27 AnGap-12
___ 04:50AM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:50AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.1 Cholest-203*
___ 04:50AM BLOOD %HbA1c-4.5* eAG-82*
___ 04:50AM BLOOD Triglyc-80 HDL-51 CHOL/HD-4.0 
LDLcalc-136*
___ 04:50AM BLOOD TSH-1.3

PERTINENT IMAGING
=================
1. ___ CTA HEAD & CTA NECK: No evidence of acute 
intracranial hemorrhage. No evidence of aneurysm, dissection or 
vascular malformation, or significant luminal narrowing. 

2. ___ CHEST (PA/LAT): No acute intrathoracic process.

3. ___ MR HEAD W/O CONTRAST: Unremarkable brain MRI without 
evidence of infarction.  Normal signal morphology of the 
brainstem. 

4. ___ ECHO: No atrial septal defect is seen on color flow 
Doppler, but there is early appearance of agitated 
saline/microbubbles in the left atrium/ventricle at rest most 
consistent with an atrial septal defect or stretched patent 
foramen ovale (though a very proximal intrapulmonary shunt 
cannot be fully excluded). 

5. ___ MRV PELVIS W&W/O CONTRAST: 
IMPRESSION:  
No evidence for a deep venous thrombosis within the abdomen or 
pelvis. 
 

6. ___ BILAT LOWER EXT VEINS: 
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

 
Brief Hospital Course:
___ year old ___ ENT physician presented with sudden 
onset dizziness and vertical diplopia, found to have an MRI 
negative stroke, and found to have a PFO on echo.

His initial exam of vertical nystagmus, left hypertropia, left 
INO was concerning for an acute vascular event affecting the 
medial midbrain.  An MRI brain was negative for acute stroke and 
he was therefore felt to have an MRI-negative stroke. His exam 
improved throughout his inpatient course and was notable only 
for vertical diplopia with right lateral gaze upon discharge. 

An echocardiogram was performed and demonstrated an ASD versus 
PFO. He was at increased risk for DVT given recent plane travel; 
however, a hypercoagulability panel should be considered for 
further workup once he has returned home. An MRV and bilateral 
lower extremity ultrasound were performed and demonstrated no 
evidence of DVT in the legs or pelvis. 

Stroke risk factors include hyperlipidemia (LDL 136), though 
HbA1c (4.5%) and TSH (1.3) were within normal limits. He 
remained on telemetry during his hospital stay and there was no 
evidence of atrial fibrillation.  

Given hyperlipidemia, he was started on atorvastatin 40mg. His 
home ASA 81mg was initially uptitrated to 325mg while inpatient. 
Subsequently he was changed to aspirin 81mg and was also started 
on Plavix 75mg for secondary stroke prevention. He should take 
aspirin 81mg daily and Plavix 75mg daily for three months. After 
three months, he should discuss with his neurologist about 
stopping the aspirin 81mg daily and continuing on only Plavix 
75mg daily

TRANSITIONAL ISSUES
===================
1. Please obtain hypercoagulability workup given young age and 
evidence of ASD/PFO.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NexIUM (esomeprazole magnesium) 20 mg oral DAILY 
2. Propranolol 20 mg PO QAM 
3. Propranolol 10 mg PO QPM 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. NexIUM (esomeprazole magnesium) 20 mg oral DAILY 
2. Propranolol 10 mg PO QPM 
3. Propranolol 20 mg PO QAM 
4. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*1
5. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
6. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MRI negative stroke
Hyperlipidemia
PFO vs ASD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___, 

___ were admitted to the Neurology stroke service with dizziness 
and double vision.  Your examination was concerning for a stroke 
in the midbrain, but your MRI was normal.  Overall, your 
diagnosis is an MRI negative stroke.  We evaluated your stroke 
risk factors which include high blood pressure and high 
cholesterol.  ___ were started on aspirin 81 mg and Plavix 75 mg 
to prevent further strokes.  ___ were started on atorvastatin to 
help lower your cholesterol. An echocardiogram showed a small 
opening (PFO vs ASD). MRV pelvis and ultrasounds of your legs 
showed no evidence of blood clots.

Please see a neurologist within 2 months. ___ will need to see 
an ophthalmologist prior to returning to work. 

Best wishes and safe travels, 
Your neurology team at ___

In order to obtain a disc with the images from your 
echocardiogram, please contact the ___ echo lab at ___ during regular business hours.
 
Followup Instructions:
___